US07078405B2
8-Bromo-2-ethyl-2,3-dihydroimidazo[1,2-c]pyrimidine
2-[(5-Bromo-4-pyrimidinyl)amino]-1-butanol (3.3 g) was dissolved in xylene (27 mL), then thionyl chloride (4.9 mL) was added thereto, and the mixture was heated under stirring at 100° C. for 1 day. The precipitated crystals were collected by filtration and suspended in a 1M aqueous sodium carbonate solution. This mixture was extracted with dichloromethane to give the crude title compound (3.0 g) as an orange oil. This title compound was used in the next reaction without purification.

reactant | 2-[(5-Bromo-4-pyrimidinyl)amino]-1-butanol | 3.3 g | BrC=1C(=NC=NC1)NC(CO)CC | C8H12BrN3O
reactant | thionyl chloride | 4.9 mL | S(=O)(Cl)Cl | Cl2OS
solvent | xylene | 27 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 8-Bromo-2-ethyl-2,3-dihydroimidazo[1,2-c]pyrimidine | 3.0 g | BrC=1C=2N(C=NC1)CC(N2)CC | C8H10BrN3
